Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Depakote / Lactose
 
Attending: ___.
 
Chief Complaint:
Chest pain, diarrhea, weight loss
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ F with a history of DMII, untreated 
hypothyroidism, and PTSD who presents with 6 days of chest pain 
in the setting of 9 weeks of chronic watery, nonbloody diarrhea. 
The chest pain is located in her midsternum and has squeezing 
and tightening qualities. She occasionally feels pain radiating 
to her back and both sides of her chest. The pain began while 
she was at ___, where she had an unpleasant 
experience. She reports having the chest pain when she feels 
stressed, which can occur with exertion or at rest. Ms. 
___ likens the chest pain to previous anxiety attacks. She 
has had some associated shortness of breath that she attributes 
to feeling nervous about her depression and her diarrhea.
  
She describes the diarrhea as yellowish and watery with brown 
specks. The quantity of the diarrhea varies with the amount of 
food she eats. For every meal she eats, she can have ___ 
episodes of diarrhea. Over the past 9 weeks, she has decreased 
her oral intake because "everything just flushes right through," 
and she "fears the diarrhea." She reports a 30lb weight loss 
since the diarrhea began (260lbs-->230lbs) and complains of 
generalized weakness. She has not had vomiting during this time. 
Her last colonoscopy was in ___, which revealed hyperplastic 
polyps. Ms. ___ was diagnosed with lactose intolerance ___ 
years ago, but she reports being only "mildly lactose 
intolerant," as she eats cheese and can have a small amount of 
milk. She denies eating dairy products during this illness. She 
reports having a "tendency toward diarrhea" and feels relief 
with defecation. No recent antibiotics.
  
Ms. ___ has had subjective fevers throughout this time, 
but has never recorded her temperature.
  
She had 2 recent hospitalizations at ___ and 
___ for chronic diarrhea evaluation. While there, 
she underwent a work-up for celiac disease and infectious causes 
of diarrhea, all of which was negative (endomysial ab, 
antigliadin IgA and IgG, TTG IgA, C. diff toxin, stool cx and 
O+P). While hospitalized, Ms. ___ only had 1 documented 
bowel movement each day. An outpatient colonoscopy was 
recommended if symptoms did not improve.
 
In the ED, VS were: 97.7 146/82 85 16 94%RA. She received 1L NS 
and 2g Mg IV.
  
Review of systems:  
(+) Per HPI. Also reports weight loss related to decreased PO 
intake.  
(-) Denies fever, chills, night sweats. Denies headache, sinus 
tenderness, rhinorrhea or congestion. Denied vomiting, 
constipation. No recent change in bowel or bladder habits. No 
dysuria. Denied arthralgias or myalgias.  

 
Past Medical History:
DMII complicated by neuropathy
Hypertension
Hypothyroidism
Osteoarthritis
PTSD
Major Depressive Disorder
Anxiety
Bipolar Disorder (from previous records; patient denies)
S/p cholecystectomy
S/p appendectomy
S/p L4-L5 discectomy
S/p Cesarean delivery ___
S/p tonsillectomy

 
Social History:
___
Family History:
Mother: former smoker, lung cancer
Father: CHF 
 
Physical ___:
VS: 97.1, HR 80, BP 132/80, RR 16, 95% on 2LNC
General: obese woman lying on her side in bed, no respiratory 
distress, somewhat anxious, motor wheelchair present in room
HEENT: anicteric, MM dry, white-gray indurated plaque covering 
tongue, supple neck without LAD
Cardiac: RRR, normal S1 + S2, no murmurs, rubs, or gallops
Pulm: CTAB, good air entry to bases
Abd: obese, soft, slightly tender to palpation in RUQ, no 
rebound or guarding, no masses
Ext: warm, well perfused, 2+ pedal pulses, no clubbing, cyanosis 
or edema
Neuro: grossly intact, CN II-XII intact, moves all 4 
extremities, no focal deficits  
Psych: restricted affect, states she is very depressed
 
Pertinent Results:
Admission Labs:
___ 08:45PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 08:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-75 
GLUCOSE-NEG KETONE-150 BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-TR
___ 08:45PM URINE  RBC-0 ___ BACTERIA-FEW YEAST-NONE 
___ RENAL ___ 08:45PM URINE  ___ 06:53PM   LACTATE-1.5 K+-4.2
___ 06:50PM   GLUCOSE-143* UREA N-7 CREAT-1.0 SODIUM-135 
POTASSIUM-4.2 CHLORIDE-92* TOTAL CO2-25 ANION GAP-22*
 
___ 06:50PM   ALT(SGPT)-38 AST(SGOT)-19 LD(LDH)-161 
CK(CPK)-93 ALK PHOS-68 TOT BILI-0.7
___ 06:50PM   LIPASE-31
___ 06:50PM   CK-MB-NotDone cTropnT-<0.01
___ 06:50PM   ALBUMIN-4.3 CALCIUM-10.2 PHOSPHATE-3.2 
MAGNESIUM-1.3*
___ 06:50PM   WBC-11.1* RBC-5.70* HGB-16.7* HCT-49.2* 
MCV-86 MCH-29.2 MCHC-33.9 RDW-13.9
___ 06:50PM   NEUTS-70.3* ___ MONOS-4.0 EOS-0.8 
BASOS-0.7
___ 06:50PM   PLT COUNT-338
___ 06:50PM   ___ PTT-25.3 ___
  
Discharge labs:
___ 06:30AM BLOOD WBC-4.5 RBC-4.76 Hgb-14.5 Hct-42.7 MCV-90 
MCH-30.5 MCHC-34.1 RDW-13.9 Plt ___
___ 05:00AM BLOOD Glucose-153* UreaN-9 Creat-0.7 Na-141 
K-3.7 Cl-100 HCO3-32 
___ 05:00AM BLOOD Calcium-9.8 Phos-3.2 Mg-1.8

Additional Labs:
___ 06:32AM BLOOD VitB12-1579*
___ 05:25AM BLOOD %HbA1c-6.2*
___ 06:32AM BLOOD HIV Ab-NEGATIVE F
  
___ 10:25 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 
   MICROSPORIDIA STAIN (Final ___:    NO MICROSPORIDIUM 
SEEN. 
   CYCLOSPORA STAIN (Final ___:    NO CYCLOSPORA SEEN. 
   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 
   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 
   Cryptosporidium/Giardia (DFA) (Final ___: 
      NO CRYPTOSPORIDIUM OR GIARDIA SEEN. 
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final ___: 
      Feces negative for C.difficile toxin A & B by EIA. 
           (Reference Range-Negative). 
   
___ 8:45 pm URINE     Site: CLEAN CATCH
                   **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
   
___ EKG - Sinus rhythm. Normal tracing. Compared to the 
previous tracing there is no significant change. 
  
___ PA & LAT CXR - IMPRESSION: No acute pulmonary process.
  
___ RUQ Ultrasound - IMPRESSION: 
1. Diffusely dilated common bile duct is likely related to post- 

cholecystectomy changes. No obstructing lesion is identified 
throughout its entire visualized course from its origin through 
the ampulla. 
2. Otherwise, unremarkable ultrasound of the abdomen without 
visualization of the pancreatic tail. 

 
Brief Hospital Course:
Mrs. ___ is a ___ year old female with a history of DMII, 
depression, and PTSD who presents with 2 days of chest pain in 
the setting of 9 weeks of chronic watery, nonbloody diarrhea and 
30lb weight loss.
  
# Diarrhea - The patient had several bowel movements during her 
hospital stay, but no evidence of diarrhea.  She was negative 
for C. difficile, parasites, and other enteric pathogens.  Her 
metformin was held as this can have GI side-effects.  She was 
also given a lactose-free diet due to history of lactose 
intolerance.  She should continue to follow a lactose-free diet 
and would recommend avoiding metformin and using other agents 
for diabetes control.  If her symptoms recur, she should 
follow-up with a gastroenterologist as an outpatient.  She had a 
colonoscopy in ___ with hyperplastic polyps removed.  
  
# Chest pain - The patient was ruled out for an MI.  Her chest 
pain was vague and migratory and was felt to be unlikely cardiac 
in origin.  
  
# Weight loss - The patient has had a documented weight loss of 
30 pounds in the past month (262 -> 230).  The patient endorsed 
fear of eating as a result of her diarrhea, and her weight loss 
may be related to poor PO intake.  However, she did eat multiple 
meals without difficulty in the hospital.  Her weight should 
continue to be followed as an outpatient, and if weight loss 
continues, additional evaluation may be warranted.  
  
# Oral plaque - The patient stated that she was previously told 
she had thrush.  The plaque on her tongue was felt to not be 
thrush and to be related to poor oral hygiene.  She was 
recommended to brush her teeth and tongue and nystatin was 
stopped.
  
# PTSD/depression - The patient had a recent psychiatrist 
admission with cessation of many of her prior medications.  She 
was seen by psychiatry and social work as an inpatient.  Given 
her history of regression in psychiatric units, psychiatry 
recommended rehab placement with outpatient psychiatry 
follow-up.  She would likely benefit from referral to an 
intensive day treatment programs (she has expressed interestin 
___ on discharge from rehab.  Psychiatry also recommended 
stopping Prozac and starting Effexor 25 mg tid, and increasing 
the dose every ___ days as tolearted to 300mg a day.
  
# Diabetes mellitus, type 2 - Metformin was held given its 
well-known GI side effects, and the patient was covered with a 
QIDACHS insulin sliding scale.  On discharge, she should start 
taking glyburide 2.5 mg daily, and the dose of this medication 
should be titrated up as needed for glucose control.  Of note, 
her insulin requirement has decreased dramatically from a year 
prior when she was on NPH 30 mg QAM and 40 mg QPM.  Her HbA1c 
was 6.2%.  Her decreased insulin requirement is likely related 
to her weight loss. 
  
# Hypothyroidism - The patient is on levothyroxine 75 mg daily 
per OMR.  This medication was not on her medication list from 
her most recent OSH discharge and was restarted on this 
discharge.  
  
# Hypertension - The patient was continued on amlodipine, 
lisinopril, and atenolol.  She remained hypertensive with 
systolics up to 150-160 on this regimen and hydrochlorothiazide 
was restarted on discharge.  
  
# Tobacco abuse - patient was given a nicotine patch.
 
Medications on Admission:
Per d/c summary ___
klor-con 20meq daily  
valium 15mg po qhs  
norvasc 5mg po daily  
atenolol 75 mg po daily  
pepcid 20mg PO BID  
lactobacillus 1 cap PO BID  
nystatin ___ units TID  
tramadol 100mg PO TID prn  
zocor 20mg po daily  
metformin 1000mg po bid  
zestril 40mg po daily  
.
Additional medications in OMR, not currently on:
Albuterol 90 mcg inhaler Q6H prn
Lomotil 2.5 mg tablets, ___ tabs prn daily
hydrochlorothiazide 25 mg daily
levothyroxine 25 mg daily
NPH 30 units QAM, 40 units QPM

 
Discharge Medications:
1. Effexor 25 mg Tablet Sig: One (1) Tablet PO three times a 
day: Increase every ___ days as tolerated up to 300 mg.  
2. Lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
3. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
4. Lorazepam 1 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for anxiety.  
5. Nicotine 14 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily): if not smoking.  
6. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  
7. Diazepam 5 mg Tablet Sig: Three (3) Tablet PO HS (at bedtime) 
as needed for anxiety.  
8. Atenolol 25 mg Tablet Sig: Three (3) Tablet PO DAILY (Daily). 
 
9. Famotidine 20 mg Tablet Sig: One (1) Tablet PO Q12H (every 12 
hours).  
10. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
11. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
12. Glyburide 2.5 mg Tablet Sig: One (1) Tablet PO once a day: 
If fasting blood sugars are greater than 140, increase dose to 5 
mg daily and titrate up as needed.  
13. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
14. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ puffs Inhalation every six (6) hours as needed for shortness 
of breath or wheezing.  
15. Levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO once a 
day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Diarrhea, resolved
Failure to thrive, secondary to depression
  
Secondary diagnoses:
Diabetes mellitus type 2  
Hypothyroidism  
Osteoarthritis  
Hypertension
PTSD  

 
Discharge Condition:
Improved, mental status at baseline, uses motor wheelchair to 
get around

 
Discharge Instructions:
You were admitted to the hospital for your chest pain, diarrhea, 
and weight loss. Your electrocardiogram was normal and unchanged 
from prior studies and your blood tests did not indicate any 
damage to your heart.  You did not have any diarrhea while you 
were in the hospital.  Stool studies did not show any infectious 
causes of your diarrhea. An ultrasound of your belly was normal 
and did not point to a cause of your diarrhea.
  
The following changes were made to your medications:
1. Stop taking Metformin as this can sometimes cause GI side 
effects.
2. Start glyburide to lower your blood sugars and treat your 
diabetes.
3. Stop taking NPH insulin as your blood sugars are much lower 
than they were.  If your blood sugars are high, you can restart 
this medication at a low dose (5 units) every morning and night 
and increase it as needed.  
3. Start famotidine to help with your abdominal discomfort.
4. Start a baby aspirin to decrease your risk of cardiovascular 
disease.
5. Stop taking Prozac.
6. Start taking Effexor to treat your depression.
7. Stop taking tramadol as it can interact with Effexor.  You 
may take tylenol as needed for pain.

 
Followup Instructions:
___